US09422271B2
A mixture of 5-bromo-N-(2-methoxyethyl)thiophene-2-sulfonamide (1 g, 3.3 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.1 g, 4.29 mmol, 1.3 eq), Pd(dppf)Cl2 (269 mg, 0.33 mmol, 0.1 eq) and KOAc (1.13 g, 11.55 mmol, 3.5 eq) in 1,4-dioxane (20 mL) was stirred at 100° C. under a nitrogen atmosphere for 3 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (PE/EA 300:1 to 40:1 as eluent) to afford N-(2-methoxyethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide (712 mg, 62%) as a solid.

reactant | 5-bromo-N-(2-methoxyethyl)thiophene-2-sulfonamide | 3.3 mmol, 1 g | BrC1=CC=C(S1)S(=O)(=O)NCCOC | C7H10BrNO3S2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.29 mmol, 1.1 g, 1.3 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 11.55 mmol, 1.13 g, 3.5 eq | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.33 mmol, 269 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(2-methoxyethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide | 712 mg, 62% | COCCNS(=O)(=O)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C | C13H22BNO5S2
